US06894129B2
5 ml (50 μmol of Ti) of toluene solution in which the metallocene was dissolved were added thereto while vigorously agitating. After agitating for 2 hours, 10 wt % of chloric acid-ethanol solution was added to terminate a reaction and the reactant was filtered, washed with ethanol and dried in a vacuum oven of 50° C. to obtain a final styrene/ethylene copolymer.

reactant | toluene | 50 μmol, 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | chloric acid ethanol | Cl(=O)(=O)O.C(C)O
product | styrene ethylene | C=CC1=CC=CC=C1.C=C | InChI=1S/C8H8.C2H4/c1-2-8-6-4-3-5-7-8;1-2/h2-7H,1H2;1-2H2
